US07723367B2
2-(1-Methyl-piperidin-4-yloxy)-benzonitrile
To a mixture of 2-fluoro-benzonitrile (1.6 g, 13.2 mmol) and 1-methyl-piperidin-4-ol (1.52 g, 13.2 mmol) in dioxane (50 mL) was added NaH (60%) (634 mg, 15.8 mmol) in portion. The reaction was heated at 50° C. overnight. The mixture was poured into water, and extracted with ethyl acetate (2×). The solvent was removed, and the resulting residue was chromatographered using ethyl acetate/methanol (20:1-10:1) to give the title compound (870 mg, 31%). MS (DCI/NH3) m/z 217 (M+1)+. 1HNMR (400 MHz, DMSO-d6) δ ppm 1.63 (m, 2H) 1.86 (m, 2H) 2.11 (s, 3H) 2.18 (m, 2H) 2.48 (m, 2H) 4.55 (m, 1H) 7.00 (td, J=7.67, 0.61 Hz, 1H) 7.23 (d, J=8.59 Hz, 1H) 7.56 (td, J=10.13, 7.36, 1.84 Hz, 1H) 7.63 (dd, J=7.67, 1.84 Hz, 1H).

reactant | 2-fluoro-benzonitrile | 13.2 mmol, 1.6 g | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | 1-methyl-piperidin-4-ol | 13.2 mmol, 1.52 g | CN1CCC(CC1)O | C6H13NO
reactant | NaH | 15.8 mmol, 634 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 2-(1-Methyl-piperidin-4-yloxy)-benzonitrile | 870 mg, 31% | CN1CCC(CC1)OC1=C(C#N)C=CC=C1 | C13H16N2O
